US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (200 mg, 0.63 mmol) in DMSO (10 mL) was added DIEA (163 mg, 1.26 mmol) and 2-methylpropan-2-amine (461.3 mg, 6.32 mmol) with stirring overnight at 90° C. in an oil bath. The reaction mixture was cooled to room temperature, diluted with H2O (150 mL), extracted with ethyl acetate (3×80 mL). The organic layers were combined, dried over magnesium sulfate, and concentrated in vacuo to give the residue, which was purified by silica gel column chromatography (1% ethyl acetate in petroleum ether) to afford methyl 3-(tert-butylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a light yellow solid (115 mg, 51%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.63 mmol, 200 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | DIEA | 1.26 mmol, 163 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-methylpropan-2-amine | 6.32 mmol, 461.3 mg | CC(C)(C)N | C4H11N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | H2O | 150 mL | O | H2O
product | methyl 3-(tert-butylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 115 mg, 51% | C(C)(C)(C)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C20H20FN3O2
